US09259001B2
Step 5: Synthesis of 2-chloro-5-methyl-3-(methylthio)benzoic acid
13 ml of concentrated hydrochloric acid were added to 6.00 g (30.4 mmol) of 2-amino-5-methyl-3-(methylthio)benzoic acid in 35 ml of water, and the mixture was heated at 60° C. for a few minutes. The solution was then cooled to a temperature of 0° C.-5° C., and a solution of 2.31 g (33.5 mmol) of sodium nitrite in 10 ml of water was slowly added dropwise at this temperature. The mixture was subsequently stirred at this temperature for another 1 h. This solution was added dropwise to a mixture, at RT, of 4.52 g (45.6 mmol) of copper(I) chloride, 35 ml of water and 27 ml of concentrated hydrochloric acid. The mixture was stirred at room temperature for 15 minutes and then slowly heated to reflux temperature. The contents were then heated under reflux for 15 minutes. For work-up, the reaction mixture was cooled and filtered, and the residue was washed with water. This gave 5.62 g of 2-chloro-5-methyl-3-(methylthio)benzoic acid as residue.

reactant | hydrochloric acid | 13 ml | Cl | ClH
reactant | 2-amino-5-methyl-3-(methylthio)benzoic acid | 30.4 mmol, 6.00 g | NC1=C(C(=O)O)C=C(C=C1SC)C | C9H11NO2S
reactant | sodium nitrite | 33.5 mmol, 2.31 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 27 ml | Cl | ClH
solvent | water | 35 ml | O | H2O
solvent | water | 10 ml | O | H2O
catalyst | copper(I) chloride | 45.6 mmol, 4.52 g | [Cu]Cl
solvent | water | 35 ml | O | H2O
product | 2-chloro-5-methyl-3-(methylthio)benzoic acid | ClC1=C(C(=O)O)C=C(C=C1SC)C | C9H9ClO2S
